US07923450B2
c) 2-[1-Dimethylamino-methylidene]-6-(pyrrolidine-1-carbonyl)-cyclohexanone
2-(Pyrrolidine-1-carbonyl)-cyclohexanone (56 mg, 0.29 mmol) was reacted with tert.-butoxy-bis-(dimethylamino)-methane using in analogous manner the procedure described in example 45a) to give crude title compound (58 mg) as a yellow oil which was used directly in the next step. MS ISP (m/e): 251.3 (100) [(M+H)+].

reactant | 2-(Pyrrolidine-1-carbonyl)-cyclohexanone | 0.29 mmol, 56 mg | N1(CCCC1)C(=O)C1C(CCCC1)=O | C11H17NO2
reactant | tert.-butoxy-bis-(dimethylamino)-methane | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
product | 2-[1-Dimethylamino-methylidene]-6-(pyrrolidine-1-carbonyl)-cyclohexanone | 58 mg | CN(C=C1C(C(CCC1)C(=O)N1CCCC1)=O)C | C14H22N2O2
